US04797391
A mixture of 9-bromo-5,6-dichloro-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (6.29 g, 0.0157 mole) and silver nitrate (7.89 g, 0.047 mol) in 2-methoxyethanol (200 ml) and H2O (100 ml) was heated at reflux for 2 hours, filtered and evaporated to dryness. Chromatography of the residue on silica gel eluted with ethyl acetate-hexane (1:1) gave 1.2 g of 5,6-dichloro-9-hydroxy-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one which melted at 173°-5° C. and was used in Step C without further purification.

reactant | 9-bromo-5,6-dichloro-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.0157 mole, 6.29 g | BrC1C2=CC(=C(C(=C2C2=CC(CCC12CCC)=O)Cl)Cl)OC | C17H17BrCl2O2
reactant | 2-methoxyethanol | 200 ml | COCCO | C3H8O2
solvent | H2O | 100 ml | O | H2O
catalyst | silver nitrate | 0.047 mol, 7.89 g | [N+](=O)([O-])[O-].[Ag+]
product | 5,6-dichloro-9-hydroxy-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 1.2 g | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OC)O)CCC)=O | C17H18Cl2O3
